US07662825B2
2,3-Dichloro-N-[3-(3-pyridinylmethoxy)-2-pyrazinyl]benzenesulphonamide
Prepared by the method of Example 28 using pyridine-3-methanol (0.09 g) and 2,3-dichloro-N-(3-chloro-2-pyrazinyl)benzenesulphonamide (0.1 g). Yield 0.042 g.

reactant | pyridine-3-methanol | 0.09 g | N1=CC(=CC=C1)CO | C6H7NO
reactant | 2,3-dichloro-N-(3-chloro-2-pyrazinyl)benzenesulphonamide | 0.1 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC=CN=C1Cl | C10H6Cl3N3O2S
product | 2,3-Dichloro-N-[3-(3-pyridinylmethoxy)-2-pyrazinyl]benzenesulphonamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC=CN=C1OCC=1C=NC=CC1 | C16H12Cl2N4O3S
